US04972009
alpha-Phenyl-N-(1-cyclohexyloxy-2,2,6,6-tetramethylpiperidin-4-yl)nitron
Following the general procedure of Example 1, the title compound is prepared from 1-cyclohexyloxy-2,2,6,6-tetramethylpiperidin-4-one oxime (2.7 g, 10 mmol) and 1.1 g (10 mmol) of benzaldehyde in a yield of 2.0 g (56%) as a white solid after flash chromatography on silica gel (8:1, heptane:ethyl acetate) which solid melts at 149°-151° C.

reactant | 1-cyclohexyloxy-2,2,6,6-tetramethylpiperidin-4-one oxime | 10 mmol, 2.7 g | C1(CCCCC1)ON1C(CC(CC1(C)C)=NO)(C)C | C15H28N2O2
reactant | benzaldehyde | 10 mmol, 1.1 g | C(C1=CC=CC=C1)=O | C7H6O
product | alpha-Phenyl-N-(1-cyclohexyloxy-2,2,6,6-tetramethylpiperidin-4-yl)nitron | C1(=CC=CC=C1)C=[N+]([O-])C1CC(N(C(C1)(C)C)OC1CCCCC1)(C)C | C22H34N2O2
